US09227969B2
Step-2.7: Synthesis of tert-butyl 4-(benzylamino)-3-fluoropiperidine-1-carboxylate, 2.8
Benzaldehyde (34.0 g, 0.321 mol) was added to a solution of tert-butyl 4-amino-3-fluoropiperidine-1-carboxylate, 2.7 (70 g, 0.32 mol) and acetic acid (10 mL) in ethanol (500 mL) and stirred for 30 min at room temperature. Sodiumcyanoborohydride (26.23 g, 0.417 mol) was added and stirred for 3 h. Reaction was quenched with saturated sodium bicarbonate solution (200 mL) and extracted with dichloromethane (2×250 mL). The combined organic layers were washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was dissolved in a minimum amount of dichloromethane (200 mL) and pH adjusted to 3-4 by adding aqueous citric acid (124 g, 0.645 mol in 1000 mL water). Layers were separated and aqueous layer was washed with dichloromethane (3×250 mL). Separated aqueous layer pH was then adjusted to 9-10 by using saturated Na2CO3 and extract with diethyl ether (2×500 mL). The combined organic layers were washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated to obtain the crude product which was purified by as light yellow oil. The residue was purified by silica gel chromatography by eluting with 10-15% EtOAc/hexane to provide the desired product tert-butyl 4-(benzylamino)-3-fluoropiperidine-1-carboxylate, 2.8 (51 g, 51.52% yield). 1HNMR (400 MHz, CDCl3): δ 7.39-7.29 (m, 5H), 4.44-4.35 (m, 0.5H), 4.32-4-10 (m, 1.5H), 3.98-3.85 (m, 2H), 3.80 (d, 1H), 2.97-2.77 (m, 4H), 2.04-1.93 (m, 1H), 1.46 (s, 9H); LCMS: 92.34%, m/z=309.2 (M+1); HPLC: 95.46%; Chiral HPLC: 47.2% at 9.56 min. and 48.3% at 12.34 min. Column. AG/Chiral Pak AD-H/03, n-Hexane/EtOH (80:20).

reactant | Benzaldehyde | 0.321 mol, 34.0 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | tert-butyl 4-amino-3-fluoropiperidine-1-carboxylate | NC1C(CN(CC1)C(=O)OC(C)(C)C)F | C10H19FN2O2
reactant | Sodiumcyanoborohydride | 0.417 mol, 26.23 g | C(#N)[BH3-].[Na+]
reactant | citric acid | 0.645 mol, 1000 mL, 124 g | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | ethanol | 500 mL | C(C)O | C2H6O
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | tert-butyl 4-(benzylamino)-3-fluoropiperidine-1-carboxylate | C(C1=CC=CC=C1)NC1C(CN(CC1)C(=O)OC(C)(C)C)F | C17H25FN2O2
